US05112824
1-[2-(4-Nitrophenyl)ethyl]-4-(benzofurazan-5-carbonyl)piperidine hydrochloride
In the manner described in Example 14, 4-(benzofurazan-5-carbonyl)piperidine hydrochloride (80 mg, 0.3 mmol), 4-nitrophenethyl bromide (172 mg, 0.75 mmol), sodium bicarbonate (101 mg, 1.2 mmol), and lithium iodide (1 mg) in ethanol (3 ml) under reflux for 3 hours gave, after purification by flash column chromatography on silica gel, eluting with CH2Cl2 /CH3OH/NH3 (Aq.); 96:4:0.4 and treatment with ethanolic HCl, the hydrochloride as a white solid (44 mg, 35%), mp 238°-240° C.

reactant | 4-(benzofurazan-5-carbonyl)piperidine hydrochloride | 0.3 mmol, 80 mg | Cl.N1=C2C(=NO1)C=C(C=C2)C(=O)C2CCNCC2
reactant | 4-nitrophenethyl bromide | 0.75 mmol, 172 mg | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | sodium bicarbonate | 1.2 mmol, 101 mg | C([O-])(O)=O.[Na+]
reactant | lithium iodide | 1 mg | [I-].[Li+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-[2-(4-Nitrophenyl)ethyl]-4-(benzofurazan-5-carbonyl)piperidine hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCN1CCC(CC1)C(=O)C=1C=CC=2C(=NON2)C1 | InChI=1S/C20H20N4O4.ClH/c25-20(16-3-6-18-19(13-16)22-28-21-18)15-8-11-23(12-9-15)10-7-14-1-4-17(5-2-14)24(26)27;/h1-6,13,15H,7-12H2;1H
